US08957069B2
1-(4-Methylphenyl)-4-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (700 mg, 2.69 mmol) synthesized in Reference example 56 and 4-iodotoluene (1.76 g, 8.08 mmol), the reaction was carried out in the same manner as Example 23 to synthesize the title compound 310 mg (yield 33%). Melting point was 150 to 151° C. (ethanol).

reactant | 1-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 2.69 mmol, 700 mg | CC1OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C | C16H24N2O
reactant | 4-iodotoluene | 8.08 mmol, 1.76 g | IC1=CC=C(C=C1)C | C7H7I
product | 1-(4-Methylphenyl)-4-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 310 mg, yield 33% | CC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)C)C1C)C)C | C23H30N2O
